US05663200
5c) p-(2-Phenylethyl)benzyl bromide
3.14 ml (33.4 mmol) of phosphorus tribromide in 11 ml of toluene are added dropwise, while cooling and under an N2 atmosphere, to 8.36 g (85%; 33.4 mmol) of p-(2-phenylethyl)benzyl alcohol in 100 ml of toluene. After 2 h at RT, the mixture is poured onto ice-water and the organic phase is separated off; it is washed with sat. NaHCO3 solution, water and saline. The aqueous phases are extracted 2× with ether, and the combined organic phases are dried with Na2SO4 and evaporated: TLC Rf (A)=0.77; 1H-NMR (200 MHz, CDCl3): 2.92 (s, 4H), 4.50 (s, 2H), 7.15-7.35 (m, 9H; additional signals of approximately 20% p-(2-phenylethyl)toluene.

reactant | phosphorus tribromide | 33.4 mmol, 3.14 ml | P(Br)(Br)Br | Br3P
reactant | p-(2-phenylethyl)benzyl alcohol | 33.4 mmol, 8.36 g | C1(=CC=CC=C1)CCC1=CC=C(CO)C=C1 | C15H16O
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | p-(2-Phenylethyl)benzyl bromide | C1(=CC=CC=C1)CCC1=CC=C(CBr)C=C1 | C15H15Br
